US07524955B2
Preparation of Methyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-1,6-dihydropyrimidine-5-carboxylate
Guanidine hydrochloride (12.1 g), 4-Fluorobenzaldehyde (7.0 g), methyl 4-methyl-3-oxo-pentanoate (8.9 g) and DMF (150 ml) were charged to a vessel equipped with a condenser and connected to a nitrogen line. The resultant mixture was stirred until a clear solution was obtained. Potassium carbonate (17.5 g) is charged and the mixture heated to 70° C. for 3 hours. The reaction mixture was cooled to ambient temperature and filtered. It contained methyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-1,6-dihydropyrimidine-5-carboxylate in 55% yield. An analytical sample was prepared by removing the reaction solvents by evaporation under reduced pressure, precipitating the product from the resultant oil in acetonitrlie and recrystallisation from acetonitrile.

reactant | Guanidine hydrochloride | 12.1 g | Cl.NC(=N)N
reactant | 4-Fluorobenzaldehyde | 7.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | methyl 4-methyl-3-oxo-pentanoate | 8.9 g | CC(C(CC(=O)OC)=O)C | C7H12O3
reactant | Potassium carbonate | 17.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | Methyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-1,6-dihydropyrimidine-5-carboxylate | 55% yield | NC=1NC(C(=C(N1)C1=CC=C(C=C1)F)C(=O)OC)C(C)C | C15H18FN3O2
